US08791132B2
2,3,4,5-Tetrahydro-2-methyl-5-phenethyl-1H-pyrido[4,3-b]indole was prepared from 2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (200 mg, 1.07), styrene (1.23 mL mmol, 10.65) and NaH (250 mg, 6.25 mmol) in DMF (6 mL) at 200° C. for 16 h to obtain 15 mg of 2,3,4,5-tetrahydro-2-methyl-5-phenethyl-1H-pyrido[4,3-b]indole after purification. 1H NMR (CDCl3, TFA salt) δ (ppm): 7.5-7.10 (m, 7H), 6.9-6.8 (m, 2H), 4.6 (d, 1H), 4.30-4.19 (m, 2H), 4.05 (d, 1H), 3.62-3.40 (m, 1H), 3.20-3.0 (m, 3H), 2.9 (s, 3H), 2.7-2.6 (t, 1H), 2.2-2.1 (t, 1H).

reactant | 2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 200 mg | CN1CC2=C(NC=3C=CC=CC23)CC1 | C12H14N2
reactant | styrene | 1.23 mL | C=CC1=CC=CC=C1 | C8H8
reactant | NaH | 6.25 mmol, 250 mg | [H-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2,3,4,5-tetrahydro-2-methyl-5-phenethyl-1H-pyrido[4,3-b]indole | 15 mg | CN1CC2=C(N(C=3C=CC=CC23)CCC2=CC=CC=C2)CC1 | C20H22N2
